US07105523B2
VIII. 4-Methoxybenzyl(2-methoxyethyl)carbamoyl chloride
0.51 g (0.31 ml, 2.56 mmol) of trichloromethyl chloroformate (“diphosgene”) are dissolved in 15 ml of dichloromethane, and 1.00 g (5.12 mmol) of 4-methoxybenzyl(2-methoxyethyl)amine and 0.78 g (7.68 mmol) of triethylamine are slowly added. After stirring at room temperature overnight, the mixture is poured into ice-water and extracted three times with dichloromethane, and the organic phase is dried over magnesium sulfate and concentrated to dryness in a rotary evaporator. The crude product is employed without workup directly in the next stage.

reactant | trichloromethyl chloroformate | 2.56 mmol, 0.31 ml, 0.51 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 4-methoxybenzyl(2-methoxyethyl)amine | 5.12 mmol, 1.00 g | COC1=CC=C(CNCCOC)C=C1 | C11H17NO2
reactant | triethylamine | 7.68 mmol, 0.78 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-Methoxybenzyl(2-methoxyethyl)carbamoyl chloride | COC1=CC=C(CN(C(=O)Cl)CCOC)C=C1 | C12H16ClNO3
